US09227976B2
Step 1: methyl 2-[5-amino-3-(3-pyridyl)pyrazol-1-yl]acetate
A mixture of 3-oxo-3-pyridin-3-ylpropane nitrile (1.31 g, 9 mmol), ethyl hydrazinoacetate hydrochloride (1.39 g, 9 mmol) in methanol (9 mL) was heated under microwave irradiation at 120° C. for 1 h. The reaction mixture was concentrated in vacuo and the residue was purified by column chromatography (silica gel, ethyl acetate) yielding the title compound as a solid (510 mg).

reactant | 3-oxo-3-pyridin-3-ylpropane nitrile | 9 mmol, 1.31 g | O=C(CC#N)C=1C=NC=CC1 | C8H6N2O
reactant | ethyl hydrazinoacetate hydrochloride | 9 mmol, 1.39 g | Cl.N(N)CC(=O)OCC
solvent | methanol | 9 mL | CO | CH4O
product | methyl 2-[5-amino-3-(3-pyridyl)pyrazol-1-yl]acetate | 510 mg | NC1=CC(=NN1CC(=O)OC)C=1C=NC=CC1 | C11H12N4O2
